US07056934B2
1-Fluoro-4-methoxy-2-methylsulfanyl-benzene
1,2-Difluoro-4-methoxy-benzene (100 mg, 0.69 mmol) and sodium methanethiolate (148 mg, 2.08 mmol) were dissolved in N,N-dimethylformamide (2 mL) and the reaction mixture stirred at 60° C. for 18 hours. Additional sodium methanethiolate (99 mg, 139 mmol) was added and the reaction mixture heated to 100° C. for 18 hours. The reaction mixture was diluted with water and extracted with ether (×2). The ether extracts were washed with water (×2), dried over magnesium sulphate and concentrated in vacuo. The residue was taken up in pentane:ether 1:1 mixture (2 mL) and filtered through a plug of silica in a pipette, washing through with pentane:ether 1:1 mixture (5 mL). The reaction mixture was concentrated in vacuo to yield the title product as a colourless oil, 135 mg.

reactant | 1,2-Difluoro-4-methoxy-benzene | 0.69 mmol, 100 mg | FC1=C(C=C(C=C1)OC)F | C7H6F2O
reactant | sodium methanethiolate | 2.08 mmol, 148 mg | C[S-].[Na+]
reactant | sodium methanethiolate | 139 mmol, 99 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Fluoro-4-methoxy-2-methylsulfanyl-benzene | FC1=C(C=C(C=C1)OC)SC | C8H9FOS
